US08835646B2
C. 6-(5,6,7,8-Tetrahydroimidazo[1,5-a]pyridin-5-yl)-biphenyl-3-carbonitrile
To a solution of 6-[5-(3-chloropropyl)imidazol-1-ylmethyl]biphenyl-3-carbonitrile (1.0 g, 3.0 mmol) in THF (16 mL) at 0° C. is added t-BuOK/THF (1.0 M, 6 mL, 6.0 mmol). The mixture is warmed up to ambient temperature and stirred for 2 h. The reaction mixture is quenched by saturated aqueous NH4Cl and partitioned between CH2Cl2 and brine. The organic layer is washed by brine, dried over anhydrous Na2SO4 and concentrated to give the crude oil, which is subjected to flash chromatography (silica gel) eluting with MeOH:CH2Cl2 to yield the desired compound. MS (ESI) m/z 300 (M+H); 1H NMR (400 MHz, CDCl3) δ ppm 1.50-1.66 (m, 1H), 1.73-1.83 (m, 1H), 1.83-1.95 (m, 1H), 1.95-2.16 (m, 1H), 2.68-2.95 (m, 2H), 5.28 (dd, J=8.5, 5.2 Hz, 1H), 6.83 (s, 1H), 7.01-7.15 (m, 2H), 7.27-7.35 (m, 2H), 7.43-7.54 (m, 3H), 7.58 (s, 1H), 7.62 (d, J=8.3 Hz, 1H). Resolution of the enantiomers of the title compound is achieved by Chiral HPLC using the ChiralPak AD column with a 20% IPA/Hexane mobile phase.

reactant | 6-[5-(3-chloropropyl)imidazol-1-ylmethyl]biphenyl-3-carbonitrile | 3.0 mmol, 1.0 g | ClCCCC1=CN=CN1CC1=CC=C(C=C1C1=CC=CC=C1)C#N | C20H18ClN3
reactant | t-BuOK THF | 6.0 mmol, 1.0 M, 6 mL | CC(C)(C)[O-].[K+].C1CCOC1
solvent | THF | 16 mL | C1CCOC1 | C4H8O
product | 6-(5,6,7,8-Tetrahydroimidazo[1,5-a]pyridin-5-yl)-biphenyl-3-carbonitrile | C=1N=CN2C1CCCC2C2=CC=C(C=C2C2=CC=CC=C2)C#N | C20H17N3
